* Z:\mnt\design.r\spice\examples\3310S.asc
L1 N002 OUT 220n Rser=2m
R1 OUT N004 562K
V1 IN 0 5
R2 N004 0 100K
C5 OUT N004 15p
Rload OUT 0 .5
C2 N003 0 4.7n
XU1 IN IN N002 N004 0 0 N007 N001 IN N006 N003 LTC3310S
C3 N005 0 220p
R4 N006 N005 10K
C1 OUT 0 47µ
R3 OUT N001 500K
R5 N007 0 274K
.tran .4m startup
.lib LTC3310S.sub
.backanno
.end
